US07473280B2
Synthesis of 1,2,4-trimethyl-8-[(methylamino)carbonyl]imidazo[1,5-a]pyrimidinium chloride (see Formula II, below)
Theophyllidine (hydrochloride), 27.0 g (0.142 mol), from step 1, was heated in 1400 ml methanol under reflux for 5 hours with acetylacetone, 28.7 g (0.284 mol), and 20 g concentrated hydrochloric acid. The solvent was then removed on the rotary evaporator and the yellow residue was purified by recrystallization from ethanol/diethyl ether.

reactant | Theophyllidine | CNC1=C(NC=N1)C(=O)NC | C6H10N4O
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
reactant | hydrochloric acid | 20 g | Cl | ClH
solvent | methanol | 1400 ml | CO | CH4O
product | 1,2,4-trimethyl-8-[(methylamino)carbonyl]imidazo[1,5-a]pyrimidinium chloride | [Cl-].C[N+]=1C=2N(C(=CC1C)C)C=NC2C(=O)NC | InChI=1S/C11H14N4O.ClH/c1-7-5-8(2)15-6-13-9(10(16)12-3)11(15)14(7)4;/h5-6H,1-4H3;1H
